US07541341B2
To a solution of 5-acetoxymethyl-2-(4-ethylbenzyl)phenol (0.59 g) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (1.1 g) in dichloromethane (15 mL) was added boron trifluoride diethyl ether complex (0.31 mL), and the mixture was stirred at 0° C. for 30 minutes. The reaction mixture was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1-3/2) to give 5-acetoxymethyl-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (1.0 g).

reactant | 5-acetoxymethyl-2-(4-ethylbenzyl)phenol | 0.59 g | C(C)(=O)OCC=1C=CC(=C(C1)O)CC1=CC=C(C=C1)CC | C18H20O3
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 1.1 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 5-acetoxymethyl-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 1.0 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)COC(C)=O)CC2=CC=C(C=C2)CC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H38O12
